US06963006B2
Synthesis of Bis(tertiary-butylamino)silane (BTBAS) Using the TBA Reagent as a Solvent
The product of the reaction was a BTBAS-containing crude liquid having a TBA.HCl salt contained therein. The liquid was analyzed by GC analysis and found to contain the following: 91.90% TBA, 7.34% BTBAS, 0.13% 3-aza-2,2,8,8-tetramethyl-5-oxa-4,6-disilanane, 0.012% tris(tert-butylamino)silane, 0.028% bis{[(tert-butyl)amino]silamethyl}(tert-butyl)amine, and 0.064% other impurities present in minor amounts.

reactant | HCl | Cl | ClH
reactant | tris(tert-butylamino)silane | C(C)(C)(C)N[SiH](NC(C)(C)C)NC(C)(C)C | C12H31N3Si
reactant | bis{[(tert-butyl)amino]silamethyl}(tert-butyl)amine | C(C)(C)(C)N[SiH2]N(C(C)(C)C)[SiH2]NC(C)(C)C | C12H33N3Si2
product | Bis(tertiary-butylamino)silane | C(C)(C)(C)N[SiH2]NC(C)(C)C | C8H22N2Si
